US04416880
2-(2-aminothiazol-4-yl)-3-phenylpropenoic acid ethyl ester (Z-isomer)
209.2 g of 2-benzylidene-3-oxo-4-chlorobutyric acid ethyl ester (described in J. Amer. Chem. Soc. 66, 1933 (1944)), 63.2 g of thiourea and 104.6 g of sodium acetate were dissolved in a mixture of 1,460 ml of tetrahydrofuran and 630 ml of water. The solution was stirred overnight at room temperature and the tetrahydrofuran was then evaporated off. The aqueous phase was adjusted to pH 8 and extracted three times with ethyl acetate. Drying and evaporation of the organic phase gave a viscous oil, which chiefly consisted of the desired Z-isomer. The product was further processed in the crude form.

reactant | 2-benzylidene-3-oxo-4-chlorobutyric acid ethyl ester | 209.2 g | C(C)OC(C(C(CCl)=O)=CC1=CC=CC=C1)=O | C13H13ClO3
reactant | thiourea | 63.2 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 104.6 g | C(C)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 1,460 ml | O1CCCC1 | C4H8O
solvent | water | 630 ml | O | H2O
product | 2-(2-aminothiazol-4-yl)-3-phenylpropenoic acid ethyl ester | C(C)OC(C(=CC1=CC=CC=C1)C=1N=C(SC1)N)=O | C14H14N2O2S
